US04910317
A solution of 13.1 g (120.8 mmol, 2.8 equiv) of benzyl alcohol in 35 ml of dry tetrahydrofuran is added dropwise over 10 minutes to a room temperature slurry of 4.3 g (107.5 mmol, 2.5 equiv) of 60% NaH oil dispersion in 65 ml of tetrahydrofuran under nitrogen atmosphere. The reaction is stirred for 15 minutes then cooled in an ice-water bath. A hot solution of 11.4 g (43.7 mmol) 3-chloro-5-methoxybenzo[b]thiophene-2-carbonylchloride (prepared by the method described by Sudabeh Pakray and Raymond N. Castle in J. Heterocyclic Chem., 1986, 23, 1571) in 95 ml of tetrahydrofuran is added rapidly to the 0° C. reaction mixture. The reaction is stirred at 0° C. for 15 minutes, warmed at reflux for three hours and allowed to cool to room temperature before pouring onto 700 g of ice-water. The resulting mixture is extracted with diethyl ether (4×200 ml). The combined extracts are washed with saturated aqueous NaHCO3 (100 ml), water (100 ml) and saturated aqueous NaCl, dried over Na2SO4 and concentrated in vacuo to give a brownish yellow solid. The material was used as is in the subsequent reaction. A sample of the residue is rccrystallized from ethanol-water to give analytically pure benzyl 3-benzyloxy-5-methoxybenzo[b]thiophene-2-carboxylate as a white crystalline solid: mp 66°-67° C.

reactant | benzyl alcohol | 120.8 mmol, 13.1 g, 2.8 equiv | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 107.5 mmol, 4.3 g, 2.5 equiv | [H-].[Na+]
reactant | 3-chloro-5-methoxybenzo[b]thiophene-2-carbonylchloride | 43.7 mmol, 11.4 g | ClC=1C2=C(SC1C(=O)Cl)C=CC(=C2)OC | C10H6Cl2O2S
reactant | ethanol water | C(C)O.O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
product | benzyl 3-benzyloxy-5-methoxybenzo[b]thiophene-2-carboxylate | C(C1=CC=CC=C1)OC=1C2=C(SC1C(=O)OCC1=CC=CC=C1)C=CC(=C2)OC | C24H20O4S
